US07560551B2
A resealable reaction tube was charged with tris(dibenzylideneacetone)dipalladium (0) (0.012 g, 0.013 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (0.021 g, 0.051 mmol), 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyridin-2-amine (0.075 g, 0.257 mmol), 1-chloro-4-phenyl-6,7-dihydro-5H-cyclopenta[d]pyridazine (0.059 g, 0.257 mmol), and sodium tert-butoxide (0.035 g, 0.359 mmol). This mixture was purged with nitrogen for several minutes, followed by addition of 0.780 mL of toluene. The vial was capped and heated at 100° C. for 1.5 h. Upon cooling, ethyl acetate was added and a precipitate formed. After filtration and washing with EtOAc, the crude material was purified by ISCO silica gel chromatography (90/10/1 DCM/MeOH/NH4OH, 12 g column), to provide N-(4-(3-(2-(methylamino)pyridin-4-yl)pyridin-2-yloxy)phenyl)-4-phenyl-6,7-dihydro-5H-cyclopenta[d]pyridazin-1-amine as a tan solid. MS m/z=487 [M+H]+. Calc'd for C30H26N6O: 486.57.

reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 0.051 mmol, 0.021 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyridin-2-amine | 0.257 mmol, 0.075 g | NC1=CC=C(OC2=NC=CC=C2C2=CC(=NC=C2)NC)C=C1 | C17H16N4O
reactant | 1-chloro-4-phenyl-6,7-dihydro-5H-cyclopenta[d]pyridazine | 0.257 mmol, 0.059 g | ClC1=NN=C(C2=C1CCC2)C2=CC=CC=C2 | C13H11ClN2
reactant | sodium tert-butoxide | 0.359 mmol, 0.035 g | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.013 mmol, 0.012 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-(3-(2-(methylamino)pyridin-4-yl)pyridin-2-yloxy)phenyl)-4-phenyl-6,7-dihydro-5H-cyclopenta[d]pyridazin-1-amine | CNC1=NC=CC(=C1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC=1N=NC(=C2C1CCC2)C2=CC=CC=C2 | C30H26N6O
